US06344484B1
1. tert-butyl (2S)-3-[4-(3-hydroxypropoxy)phenyl]-2-[(phenylmethoxy)carbonylamino]propanoate
A mixture of N-(benzyloxycarbonyl)-L-tyrosine tert-butyl ester (0.37 g, 1.0 mmol), 3-bromo-1-propanol (0.09 mL, 1.0 mmol), and cesium carbonate (0.33 g, 1.0 mmol) in anhydrous N,N-dimethylformamide (5 mL) was stirred at room temperature for 24 h. The reaction mixture was evaporated to dryness under high vacuum and the residue was partitioned between water and ethyl acetate. The aqueous layer was separated and extracted with ethyl acetate. The ethyl acetate extracts were combined and washed once with saturated sodium bicarbonate and brine. The ethyl acetate was dried and evaporated to dryness. The residue was purified on a silica gel column (10 g Waters Sep-Pak) by eluting with a gradient of ethyl acetate and hexane from 20:80 to 30:70. The pure fractions were combined and evaporated to dryness to give the title compound (0.269 g, 63% yield) as a clear oil. 1H NMR (300 MHz, CDCl3) δ7.34 (m, 5H), 7.05 (d, J=8.6 Hz, 2H), 6.80 (m, 2H), 5.22 (d, J=8.1 Hz, 1H), 5.10 (d, J=2.8 Hz, 2H), 4.48 (q, J=8.1 Hz, 1H), 4.09 (t, J=6.0 Hz, 2H), 3.86 (t, J=6.0 Hz, 2H), 3.02 (m, 2H), 2.03 (p, J=6.0 Hz, 2H), 1.41 (s, 9H).

reactant | N-(benzyloxycarbonyl)-L-tyrosine tert-butyl ester | 1.0 mmol, 0.37 g | C(C)(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C21H25NO5
reactant | 3-bromo-1-propanol | 1.0 mmol, 0.09 mL | BrCCCO | C3H7BrO
reactant | cesium carbonate | 1.0 mmol, 0.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | tert-butyl (2S)-3-[4-(3-hydroxypropoxy)phenyl]-2-[(phenylmethoxy)carbonylamino]propanoate | 0.269 g, 63% yield | OCCCOC1=CC=C(C=C1)C[C@@H](C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1 | C24H31NO6
